US07625932B2
Preparation of 2-(4-formylphenyl)thiophene-3-carbonitrile
In a manner analogous to the procedure set forth in example A-239, the title compound is prepared from 2-iodo-3-cyano-thiophene and 4-formylphenyl boronic acid.

reactant | 2-iodo-3-cyano-thiophene | IC=1SC=CC1C#N | C5H2INS
reactant | 4-formylphenyl boronic acid | C(=O)C1=CC=C(C=C1)B(O)O | C7H7BO3
product | 2-(4-formylphenyl)thiophene-3-carbonitrile | C(=O)C1=CC=C(C=C1)C=1SC=CC1C#N | C12H7NOS
